US04713383
To a mixture of 2-(4-chlorophenyl)-[1,2,4]triazolo[1,5-c]quinazolin-5(6H)one (6 g) in dry dimethylsulphoxide (150 ml) is added sodium methoxide (1.3 g). The mixture is heated under nitrogen for one hour at 85° and methyl iodide (1.3 ml) in dimethyl sulphoxide (10 ml) added. A white solid forms rapidly. The reaction mixture is heated three hours longer, cooled and poured into ice water (800 ml). The precipitated white solid is washed with water, air dried (7.2 g) and recrystallized from dimethylacetamide twice to afford pure 2-(4-chlorophenyl)6-methyl-[1,2,4]triazolo[1,5-c]quinazolin-5(6H)one, mp 323°-325°.

reactant | 2-(4-chlorophenyl)-[1,2,4]triazolo[1,5-c]quinazolin-5(6H)one | 6 g | ClC1=CC=C(C=C1)C1=NN2C(NC=3C=CC=CC3C2=N1)=O | C15H9ClN4O
reactant | sodium methoxide | 1.3 g | C[O-].[Na+]
reactant | methyl iodide | 1.3 ml | CI | CH3I
solvent | dimethylsulphoxide | 150 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 2-(4-chlorophenyl)6-methyl-[1,2,4]triazolo[1,5-c]quinazolin-5(6H)one | ClC1=CC=C(C=C1)C1=NN2C(N(C=3C=CC=CC3C2=N1)C)=O | C16H11ClN4O
